US04102909
6(R),10-Dimethyl-Undecan-2-yn-4(R)-ol 3,5-Dinitrobenzoate
This compound was prepared similar to the method described in Example 44 from 4.22 g (21.6 mmol) of 6(R),10-dimethyl-undecan-2-yn-4(R)-ol,4.58 g (21.6 mmol) of 3,5-dinitrobenzoic acid and 8.25 g (43.2 mmol) of p-toluenesulfonyl chloride in dry pyridine (total 55 ml) at 4° C. for 31/2 hr. It was worked up as described in Example 44 to give recrystallization once from methanol 6.73 g (84.2%) of pure 6(R),10-dimethyl-undecan-2-yn-4(R)-ol 3,5-dinitrobenzoate, m.p. 90°-91°.

reactant | 6(R),10-dimethyl-undecan-2-yn-4(R)-ol | 21.6 mmol, 4.22 g | C[C@@H](C[C@H](C#CC)O)CCCC(C)C | C13H24O
reactant | 3,5-dinitrobenzoic acid | 21.6 mmol, 4.58 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4N2O6
reactant | p-toluenesulfonyl chloride | 43.2 mmol, 8.25 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 55 ml | N1=CC=CC=C1 | C5H5N
product | 6(R),10-Dimethyl-Undecan-2-yn-4(R)-ol 3,5-Dinitrobenzoate | [N+](=O)([O-])C=1C=C(C(=O)O[C@@H](C#CC)C[C@@H](CCCC(C)C)C)C=C(C1)[N+](=O)[O-] | C20H26N2O6
